US04116951
Boc-Glu(OBzl)-Glu(OBzl)-Ala-Glu(OBzl)-Asn-OBzl.
Boc-Ala-Glu(OBzl)-Asn-OBzl (28.2 g; 46 mmol) was treated with 1.1 liter of 4N HCl in THF for 1 hour. Evaporation of the solvent and excess acid left an oil which was evaporated twice more with fresh THF. The residual oil turned into a solid when treated with a large volume of ether. The solid HCl.H-Ala-Glu(OBzl)-Asn-OBzl was stirred with Boc-Glu(OBzl)-Glu(OBzl)-OH (25.6 g, 46 mmol), HOSu (10.6 g, 92 mmol) and DCC (10.9 g, 53 mmol) in DMF (540 ml) at 0° for 1 hour and then at 25° for 48 hours. Et3N was added to maintain the reaction slightly basic over the entire period of time (~16 ml Et3N total). The insoluble by-products formed were filtered off and the filtrate evaporated to dryness. The crude product was dissolved in CHCl3, washed with water (3×), dried over Na2SO4 and evaporated to dryness. The product solidified when treated with petroleum ether. Recrystallized from i-PrOH: Yield, 28.9 g (59.8%); mp 169°-175°; [α]D25 =-11.78° (c 1, DMF).

reactant | Boc-Ala-Glu(OBzl)-Asn-OBzl | 46 mmol, 28.2 g | N([C@@H](C)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C31H40N4O9
reactant | HCl | 4N, 1.1 liter | Cl | ClH
reactant | H-Ala-Glu(OBzl)-Asn-OBzl | N[C@@H](C)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OCC1=CC=CC=C1 | C26H32N4O7
reactant | Boc-Glu(OBzl)-Glu(OBzl)-OH | 46 mmol, 25.6 g | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C29H36N2O9
reactant | HOSu | 92 mmol, 10.6 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 53 mmol, 10.9 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 540 ml | CN(C)C=O | C3H7NO
solvent | Et3N | ~16 ml | CCN(CC)CC | C6H15N
product | Boc-Glu(OBzl)-Glu(OBzl)-Ala-Glu(OBzl)-Asn-OBzl | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C55H66N6O15
